US08748650B2
Under a nitrogen atmosphere, 428 mg (2 mmol) of diphenyl carbonate and 5 mL of acetonitrile were loaded into a round bottom flask having a volume of 100 mL, and then the mixture was stirred at room temperature. A solution prepared by dissolving 814 mg (2 mmol) of tetrabutylphosphonium methionine salt in 15 mL of acetonitrile was dropped to the solution, and then the mixture was stirred for 30 minutes. After that, a 1M aqueous HCl solution was added to the reaction solution to terminate the reaction, and then the resultant was concentrated with an evaporator. Next, water was added to the concentrated product, and then the resultant was extracted with ethyl acetate. The resultant organic layer was washed with water and brine, and was then dried with sodium sulfate. After that, the dried product was concentrated with an evaporator. Thus, a crude product was obtained. Next, the crude product was purified by column chromatography. Thus, N-phenoxycarbonyl-L-methionine was obtained. An isolation amount and an isolation yield were 430.9 mg and 80%, respectively.

reactant | diphenyl carbonate | 2 mmol, 428 mg | C(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C13H10O3
reactant | tetrabutylphosphonium methionine salt | 2 mmol, 814 mg | N[C@@H](CCSC)C(=O)[O-].C(CCC)[P+](CCCC)(CCCC)CCCC
reactant | HCl | 1M | Cl | ClH
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | N-phenoxycarbonyl-L-methionine | O(C1=CC=CC=C1)C(=O)N[C@@H](CCSC)C(=O)O | C12H15NO4S
